US09056873B2
Step A: Thieno[3,2-b]pyridine
A solution of 7-chlorothieno[3,2-b]pyridine (500 mg, 2.95 mmol) and zinc (193 mg, 2.95 mmol) in acetic acid (5 mL) was stirred at room temperature for 3 days, followed by stirring at 50° C. for 5 hours. The solvent was removed in vacuo and the residue was dissolved in DCM (200 mL) and extracted with 1N NaOH (500 mL). The aqueous layer was washed again with DCM (2×200 mL). The organic layers were combined, dried over Na2SO4, and the solvent was removed in vacuo to yield the title compound as a yellow oil, which was used without further purification. ESI-MS m/z [M+H]+ calc'd for C7H5NS, 136. found, 136.

reactant | 7-chlorothieno[3,2-b]pyridine | 2.95 mmol, 500 mg | ClC1=C2C(=NC=C1)C=CS2 | C7H4ClNS
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 2.95 mmol, 193 mg | [Zn] | Zn
product | Thieno[3,2-b]pyridine | S1C=CC2=NC=CC=C21 | C7H5NS
